US05157041
A mixture of 2 g of 3-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-4(R)-thiazolidinecarboxamide and 4.1 ml of 32% (w/w) hydrogen bromide in glacial acetic acid was stirred at room temperature for 1 hour. The resulting solution was diluted with anhydrous diethyl ether and the precipitated product was rapidly filtered off and washed with fresh diethyl ether. There were obtained 2.01 g of 3-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-4(R)-thiazolidinecarboxamide dihydrobromide as a white solid; 1H NMR (300 MHz): δ (D2O) 1.37 (9H, s), 3.0 (2H, m), 3.09 (2H, dq), 3.29 (2H, d), 3.85 (2H, m), 4.16 (1H, m), 4.3 (2H, q) and 7.42 (5H, m) ppm.

reactant | 3-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-4(R)-thiazolidinecarboxamide | 2 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CN1CSC[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C26H35N3O4S
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-4(R)-thiazolidinecarboxamide dihydrobromide | 2.01 g | Br.Br.N[C@H]([C@@H](CN1CSC[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | InChI=1S/C18H29N3O2S.2BrH/c1-18(2,3)20-17(23)15-11-24-12-21(15)10-16(22)14(19)9-13-7-5-4-6-8-13;;/h4-8,14-16,22H,9-12,19H2,1-3H3,(H,20,23);2*1H/t14-,15-,16+;;/m0../s1
